US05112998
The reaction and workup procedures of Example 140 were repeated except that 85 mg of 3β-benzoyloxy-21,21-dimethoxy-20-methyl-1α-(N-methylcarbamoyl)oxy-7α-(methoxycarbonyl)oxypregn-5-ene was used in lieu of 100 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,3β,7α-tris(methoxycarbonyloxy)pregn-5-ene to give 45 mg of 21,21-dimethoxy-20-methylpregn-5-ene-1α,3β,7α-triol showing the following physical properties.

reactant | 3β-benzoyloxy-21,21-dimethoxy-20-methyl-1α-(N-methylcarbamoyl)oxy-7α-(methoxycarbonyl)oxypregn-5-ene | 85 mg | C(C1=CC=CC=C1)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C(OC)OC)C)[C@]4(CC[C@@H]3[C@]2([C@H](C1)OC(NC)=O)C)C)OC(=O)OC | C35H49NO9
reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,3β,7α-tris(methoxycarbonyloxy)pregn-5-ene | 100 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3[C@@H](C=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(=O)OC)OC(=O)OC)OC(=O)OC)C | C33H50O11
product | 21,21-dimethoxy-20-methylpregn-5-ene-1α,3β,7α-triol | 45 mg | COC(C([C@H]1CC[C@H]2[C@@H]3[C@@H](C=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O)O)C)OC | C24H40O5
